US07230007B2
15 cm3 of thionyl chloride were added, at a temperature in the region of 25° C. under an argon atmosphere, to 1.67 g (7 mmol) of 1-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid. After stirring at reflux for 2 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa). The residue was 3 times in succession triturated with 20 cm3 of dichloromethane and then concentrated to dryness under reduced pressure (2.7 kPa) to give 1.8 g of 3-chlorocarbonyl-1-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride in the form of a yellow powder which was used directly in the following stage.

reactant | thionyl chloride | 15 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 7 mmol, 1.67 g | N1=CC=C(C=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C13H9N3O2
product | 3-chlorocarbonyl-1-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 1.8 g | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=CC=NC=C2 | InChI=1S/C13H8ClN3O.ClH/c14-12(18)11-8-17(9-3-6-15-7-4-9)13-10(11)2-1-5-16-13;/h1-8H;1H
